US08748418B2
d) 3-Chloro-6,7-dihydro-5H-[1]pyrindin-7-ol
A solution of acetic acid 3-chloro-6,7-dihydro-5H-[1]pyrindin-7-yl ester (1.57 g, 7.42 mmol) in methanol (35.7 ml) was treated with 1 M sodium hydroxide solution (8.9 ml). The mixture was stirred at room temperature for 1.5 hours. The reaction was followed by TLC (silica gel, heptane:ethyl acetate=1:1; UV detection 254 nm). After completion, the reaction mixture was treated with water and extracted with dichloromethane. The combined organic layers were dried over sodium sulfate, then evaporated leaving a dark red liquid (1.15 g, 91%) which crystallized on standing. Following NMR the product was pure enough for the next step of the synthesis; (calculated) C8H8ClNO [169.61]; (found) [M+H]+=170.

reactant | acetic acid 3-chloro-6,7-dihydro-5H-[1]pyrindin-7-yl ester | 7.42 mmol, 1.57 g | ClC=1C=NC=2C(CCC2C1)OC(C)=O | C10H10ClNO2
reactant | sodium hydroxide | 1 M, 8.9 ml | [OH-].[Na+]
reactant | heptane | CCCCCCC | C7H16
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 35.7 ml | CO | CH4O
solvent | water | O | H2O
product | 3-Chloro-6,7-dihydro-5H-[1]pyrindin-7-ol | 1.15 g, 91% | ClC=1C=NC=2C(CCC2C1)O | C8H8ClNO
